US04736038
Dissolved in toluene was 3.1 g (0.02 mole) of 4-chloro-N-methyl-benzylamine, followed by an addition of a catalytic amount of pyridine and a further dropwise addition of 1.8 g (0.022 mole) of diketene at room temperature. After stirring the reaction mixture at room temperature for 3 hours, it was poured in water and then extracted with toluene. Subsequent to purification, N-methyl-N-(4-chlorobenzyl)acetamide was obtained in an oily form.

reactant | 4-chloro-N-methyl-benzylamine | 0.02 mole, 3.1 g | ClC1=CC=C(CNC)C=C1 | C8H10ClN
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diketene | 0.022 mole, 1.8 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-methyl-N-(4-chlorobenzyl)acetamide | CN(C(C)=O)CC1=CC=C(C=C1)Cl | C10H12ClNO
